US09120749B2
{6-(3-Chloro-4-hydroxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (65 mg, 0.146 mmol) was reacted with 3-chloro-4-hydroxyphenyl boronic acid (38 mg, 0.219 mmol) to afford the desired product (24 mg, 33%) as a light yellow-brown solid: 1H NMR (500 MHz, CD3OD) δ 9.29 (s, 0.5H), 9.20 (s, 0.5H), 8.38 (s, 1H), 8.12-8.04 (m, 1H), 7.98-7.91 (m, 1H), 7.74 (d, J=2.3 Hz, 0.5H), 7.68 (d, J=2.3 Hz, 0.5H), 7.58-7.48 (m, 1H), 7.06 (dd, J=9.5, 8.5 Hz, 1H), 3.59-3.49 (m, 1H), 3.45-3.15 (m, 4H), 2.98-2.83 (m, 1H), 2.45 (d, J=11.9 Hz, 1H), 2.30-2.19 (m, 2H), 2.11-1.88 (m, 4H), 1.86-1.70 (m, 2H), 1.38 (q, J=7.4 Hz, 6H), 1.27-1.20 (m, 2H), 1.19-1.10 (m, 2H); ESI MS m/z 492 [C29H34ClN3O2+H]+; HPLC 97.5% (AUC), tR=4.53 min.

reactant | {6-bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.146 mmol, 65 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N(CC)CC | C23H30BrN3O
reactant | 3-chloro-4-hydroxyphenyl boronic acid | 0.219 mmol, 38 mg | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
product | {6-(3-Chloro-4-hydroxyphenyl)-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 24 mg, 33% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N(CC)CC | C29H34ClN3O2
